US05677470
In dimethylformamide (75 ml) was dissolved methyl (2S,3R)-3-(4-fluorophenyl)-3-hydroxy-2-p-toluenesulfonyloxypropionate (5.48 g, 14.9 mmol), and water (1.4 ml, 74.5 mmol) was added to the solution. The reaction mixture was cooled by an ice bath, potassium carbonate (6.16 g, 44.6 mmol) was added thereto, and the mixture was stirred at room temperature for 22 hours. The reaction mixture was cooled again by an ice bath, water (100 ml) was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and then dried over anhydrous sodium sulfate. After the solvent was removed, the residue obtained was purified by silica gel column chromatography (diethyl ether/hexane=1/3) to obtain methyl (2R,3R)-3-(4-fluorophenyl)-2,3-epoxypropionate (2.69 g, yield: 92%).

reactant | methyl (2S,3R)-3-(4-fluorophenyl)-3-hydroxy-2-p-toluenesulfonyloxypropionate | 14.9 mmol, 5.48 g | FC1=CC=C(C=C1)[C@H]([C@@H](C(=O)OC)OS(=O)(=O)C1=CC=C(C=C1)C)O | C17H17FO6S
reactant | water | 74.5 mmol, 1.4 ml | O | H2O
reactant | potassium carbonate | 44.6 mmol, 6.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | methyl (2R,3R)-3-(4-fluorophenyl)-2,3-epoxypropionate | 2.69 g, yield: 92% | FC1=CC=C(C=C1)[C@@H]1[C@H](C(=O)OC)O1 | C10H9FO3
